US05658920
(1) 8-Acetylamino-5-chloro-2-hydroxymethylene-1-tetralone
960 mg of 60% aqueous solution of sodium hydride was added to 8 ml of ethyl formate under ice-cooling, and 5 minutes after the mixture was cooled to room temperature, a solution of 1.43 gm of 8-acetylamino-5-chloro-1-tetralone dissolved in 30 ml of dimethoxyethane was slowly added. After the addition of 0.06 ml of ethanol, the mixture was stirred for 30 minutes. The reaction mixture was poured into 300 ml of 14% aqueous solution of sodium chloride, extracted with ethyl acetate, washed with 10% aqueous solution of citric acid and saturated brine, and dried over anhydrous sodium sulfate. After concentration, ether was added to the residue to collect the precipitate of 1.30 gm of the title compound the by filtration.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | 8 ml | C(=O)OCC | C3H6O2
reactant | 8-acetylamino-5-chloro-1-tetralone | 1.43 gm | C(C)(=O)NC=1C=CC(=C2CCCC(C12)=O)Cl | C12H12ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
solvent | ethanol | 0.06 ml | C(C)O | C2H6O
product | 8-Acetylamino-5-chloro-2-hydroxymethylene-1-tetralone | C(C)(=O)NC=1C=CC(=C2CCC(C(C12)=O)=CO)Cl | C13H12ClNO3
